US04140681
A solution of 4.8 g of N2 -(2-phenoxathiinylsulfonyl)-L-arginyl-N-tetrahydrofurfurylglycine ethyl ester in 15 ml of methanol and 15 ml of 2N-NaOH solution was warmed to 40° C. and held at that temperature for 10 hours. At the end of this period, the reaction mixture was concentrated and chromatographed on 200 ml of Daiaion® SK 102 ion exchange resin (200-300 mesh, H+ form, manufactured by Mitsubishi Chemical Industries Limited) packed in water, washed with ethanol-water (1:4) and eluted with ethanol-water-NH4OH (10 : 9 : 1). The main fraction was evaporated to dryness and washed with ethyl ether to give 3.2 g (80 percent) of N2 -(2-phenoxathiinylsulfonyl)-L-arginyl-N-tetrahydrofurfurylglycine as an amorphous solid. I.R. (KBr): 3350, 1640, 1250 cm-1

reactant | N2 (2-phenoxathiinylsulfonyl)-L-arginyl-N-tetrahydrofurfurylglycine ethyl ester | 4.8 g | N#N.C(C)OC(CN(CC1CCCO1)C([C@@H](NS(=O)(=O)C1=CC=2SC3=CC=CC=C3OC2C=C1)CCCNC(N)=N)=O)=O
reactant | NaOH | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | N2 (2-phenoxathiinylsulfonyl)-L-arginyl-N-tetrahydrofurfurylglycine | 3.2 g, 80 percent | N#N.C1=C(C=CC=2OC3=CC=CC=C3SC12)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N(CC(=O)O)CC1CCCO1 | InChI=1S/C25H31N5O7S2.N2/c26-25(27)28-11-3-6-18(24(33)30(15-23(31)32)14-16-5-4-12-36-16)29-39(34,35)17-9-10-20-22(13-17)38-21-8-2-1-7-19(21)37-20;1-2/h1-2,7-10,13,16,18,29H,3-6,11-12,14-15H2,(H,31,32)(H4,26,27,28);/t16?,18-;/m0./s1
